US06469188B1
norbornylfulvene.
Norcamphor (10.00 g, 90.8 mmol) and sodium methoxide (12.0 g, 222 mmol) and 100 mL methanol were added to a 250 mL flask. The solids were dissolved before addition of cyclopentadiene (12.0 g, 182 mmol). After stirring for 68 hours, 200 mL water and 100 mL diethyl ether were added to the deep red solution. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (3×50 mL). The combined organic layers were dried over MgSO4, filtered and rotavapped to yield the crude product in quantitative yield.

reactant | Norcamphor | 90.8 mmol, 10.00 g | C1CC2CC1CC2=O | C7H10O
reactant | sodium methoxide | 222 mmol, 12.0 g | C[O-].[Na+]
reactant | methanol | 100 mL | CO | CH4O
reactant | cyclopentadiene | 182 mmol, 12.0 g | C1=CC=CC1 | C5H6
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
product | norbornylfulvene | quantitative yield | C12(CCC(CC1)C2)C2=CC=CC2=C | C13H16
